US08748435B2
Synthesis of 3-allyl-3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester (32)
3-Oxo-azetidine-1-carboxylic acid tert-butyl ester (1.37 g, 8 mmol) was dissolved in Et2O (10 ml) and a 1M solution of allylmagnesiumbromid in Et2O (10.4 ml, 10.4 mmol) was added dropwise at 0° C. Stirring was continued at rt overnight. The reaction mixture was quenched with H2O, extracted twice with EtOAc, the organic layer were washed with brine, combined, dried over Na2 SO4, filtered off and concentrated under reduced pressure to give a orange oil. The crude product was purified by flash chromatography (silica gel, EtOAc/cyclohexane 15-25%) which furnished the product as an yellow oil.

reactant | 3-Oxo-azetidine-1-carboxylic acid tert-butyl ester | 8 mmol, 1.37 g | C(C)(C)(C)OC(=O)N1CC(C1)=O | C8H13NO3
reactant | allylmagnesiumbromid | C(C=C)[Mg]Br
solvent | Et2O | 10 ml | CCOCC | C4H10O
solvent | Et2O | 10.4 mmol, 10.4 ml | CCOCC | C4H10O
product | 3-allyl-3-hydroxy-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)(O)CC=C | C11H19NO3
